* source LMX58B_LM2904B
V_V1         VCC 0 18
V_V2         0 VEE 18
V_V3         VIN 0  
+SIN 0 1 1k 0 0 0
X_U1         VIN VO VCC VEE VO LMX58B_LM2904B
