* C:\Users\ramc9m\Documents\GitHub\ECE-Capstone-Group-5\Spice\LTSpice\BinaryCounter.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 N003 N003 N003 N011 0 0 0 0 N004 N006 N009 N008 N003 N003 0 74HC161 74HC161 ;§pnba 1)2)3)4)5)6)7)8)9)10)11)12)13)14)15)16
V1 N011 0 PULSE(0 5 0 1n 1n 1u 10u)
V2 N003 0 5
Q1 N001 N002 0 0 NPN
R4 N002 N008 10k
R5 N001 N003 10k
X§U2 0 N004 N006 N009 N012 N014 N016 N018 N019 N017 N015 N013 N010 N007 N005 0 74HC151 74HC151 ;§pnba 1)2)3)4)5)6)7)8)9)10)11)12)13)14)15)16
R1 N012 N020 1k
R2 N014 N020 5k
R3 N016 N020 10k
R6 N018 N020 20k
R7 N019 N020 40k
R8 N017 N021 60k
R9 N015 N021 80k
R10 N013 N021 100k
V3 N005 0 5
R11 0 N010 10k
R12 0 N007 10k
V4 N021 0 4
V5 N020 0 3
.model NPN NPN
.model PNP PNP
.lib C:\Users\ramc9m\AppData\Local\LTspice\lib\cmp\standard.bjt
.include 74hc.lib
.tran 0 1m 0 100n
.param vcc=5 speed=1 tripdt=0
.backanno
.end
